US06048884
6.35 g of (S)-1-phenoxy-3-[[2-(4-nitrophenyl)ethyl]-amino]-2-propanol and 4 g of di-t-butyl dicarbonate were subjected to an acylation reaction to obtain 7.94 g of t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-(4-nitrophenyl)-ethyl]carbamate.

reactant | (S)-1-phenoxy-3-[[2-(4-nitrophenyl)ethyl]-amino]-2-propanol | 6.35 g | O(C1=CC=CC=C1)C[C@H](CNCCC1=CC=C(C=C1)[N+](=O)[O-])O | C17H20N2O4
reactant | di-t-butyl dicarbonate | 4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-(4-nitrophenyl)-ethyl]carbamate | 7.94 g | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)[N+](=O)[O-])COC1=CC=CC=C1 | C22H28N2O6
